US04547501
2-Chloro-3-hydrazinoquinoxaline (3.0 g., 0.015 mole), the product of Example 1, was stirred with triethyl orthobutyrate (27 ml.) at 100° C. for 2 hours. The mixture was cooled to room temperature, and the precipitate was collected by filtration and washed with cyclohexane. The crude solid was taken up in chloroform and filtered to remove insoluble material. The chloroform solution was concentrated in vacuo to give a solid which was recrystallized from chloroform to give 1.96 g. (53% yield) of 4-chloro-1-n-propyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 173°-175° C. Mass spectrum: m/e, 246 (P).

reactant | 2-Chloro-3-hydrazinoquinoxaline | 0.015 mole, 3.0 g | ClC1=NC2=CC=CC=C2N=C1NN | C8H7ClN4
reactant | triethyl orthobutyrate | 27 ml | C(CCC)(OCC)(OCC)OCC | C10H22O3
product | 4-chloro-1-n-propyl-[1,2,4]triazolo[4,3-a]quinoxaline | 53% yield | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C12H11ClN4
